***************************************************************************
* Renesas RJK1053DPB
*
* Polarity N-Channel
* Ratings 100V/1.260000E-002OHMS/25A
*
* Date Created Wed Dec 21 16:48:06 2011
* Revision 18  Wed Apr 10 14:20:15 2013
*
***************************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2011
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
***************************************************************************
* NO WARRANTY.
* RENESAS AND ITS SUPPLIER DO NOT AND CANNOT WARRANT THE PERFORMANCE
* OR RESULTS YOU MAY OBTAIN BY USING THIS SOFTWARE.
* AS TO ANY MATTER INCLUDING WITHOUT LIMITATION NONINFRINGEMENT OF THIRD
* PARTY RIGHTS, MERCHANTABILITY, INTEGRATION, SATISFACTORY QUALITY,
* OR FITNESS FOR ANY PARTICULAR PURPOSE.
***************************************************************************
*This product is supported in Renesas VP!
*If you are interested in Renesas VP, please access the following website.
*http://www.renesas.com/vp
*
***************************************************************************

.SUBCKT RJK1053DPB DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 1.25663706143592
RLD1 5 4 3.2e-05
LG GATE 1 1.73e-09
RLG GATE 1 108.699105814207
LS SOURCE 8 6.3e-10
RLS2 SOURCE 8 39.5840674352314
RLS1 8 7 0.00019

RDS 7 4 3330824112.50192 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00936 TC=0.00640066628154744,1.79564211890353E-05
RBD 9 4 0.00161420526695184 TC=0.00640066628154744,1.79564211890353E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2475492623.03198
CGS 2 6 6.180786e-09
RG 1 2 0.488148

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	1961.6
+ -25	1961.6
+ -24	1961.6
+ -23	1961.6
+ -22	1961.6
+ -21	1961.6
+ -20	1961.6
+ -19	1961.6
+ -18	1961.6
+ -17	1961.6
+ -16	1961.6
+ -15	1961.6
+ -14	1961.6
+ -13	1961.6
+ -12	1961.6
+ -11	1961.6
+ -10	1961.6
+ -9	1961.6
+ -8	1961.6
+ -7	1961.6
+ -6	1961.6
+ -5	1961.6
+ -4	1814.48
+ -3	1667.36
+ -2	1520.24
+ -1	1373.12
+ 0	1226
+ 0.1	1047
+ 0.2	909.4
+ 0.3	788
+ 0.4	684.7
+ 0.5	608.9
+ 0.6	557.9
+ 0.7	523.3
+ 0.8	497.7
+ 0.9	477.1
+ 1	459.8
+ 2	360.1
+ 3	309.8
+ 4	277.3
+ 5	253.9
+ 6	235.9
+ 7	221.5
+ 8	209.6
+ 9	199.6
+ 10	191.5
+ 11	184
+ 12	177.4
+ 13	171.5
+ 14	166.2
+ 15	161.3
+ 16	156.9
+ 17	153
+ 18	149.3
+ 19	145.9
+ 20	142.7
+ 21	139.8
+ 22	137
+ 23	134.4
+ 24	132
+ 25	129.7
+ 30	120
+ 35	112.3
+ 40	106
+ 45	100.7
+ 50	96.25
+ 55	92.37
+ 60	89.02
+ 65	86.26
+ 70	84.27
+ 75	83.04
+ 80	82.32
+ 85	81.9
+ 90	81.65
+ 95	81.51
+ 100	81.44



.MODEL MINT NMOS(Vto=2.45412 Kp=3.977e+002 Nfs=420000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ Uo=600 Vmax=2000)

.MODEL DBD D(Bv=108.376 Ibv=1.000000E-002 Rs=1E-6 Is=5.63371214081493e-12
+ N=1 M=0.55 VJ=0.5 Fc=0.5 Cjo=1.598e-09 Tt=5.04e-09)

.ENDS

